US05852023
5-Cyano-6-ethyl-4-[cis-4-(1,1,2-trimethylpropyl)cyclohexylamino]pyrimidine
Prepared as in Example 2 from 6-ethyl-5-iodo-4-[cis-4-(1,1,2-trimethylpropyl)cyclohexylamino]pyrimidine and copper(I) cyanide.

reactant | 6-ethyl-5-iodo-4-[cis-4-(1,1,2-trimethylpropyl)cyclohexylamino]pyrimidine | C(C)C1=C(C(=NC=N1)N[C@@H]1CC[C@@H](CC1)C(C(C)C)(C)C)I | C18H30IN3
reactant | copper(I) cyanide | [Cu]C#N
product | 5-Cyano-6-ethyl-4-[cis-4-(1,1,2-trimethylpropyl)cyclohexylamino]pyrimidine | C(#N)C=1C(=NC=NC1CC)N[C@@H]1CC[C@@H](CC1)C(C(C)C)(C)C | C19H30N4
